US06451814B1
4-(4-{2-[(2S)-2-Hydroxy-3-(4-hydroxy-phenoxy)-propylamino]-ethyl}-phenylamino)-piperidine-1-carboxylic Acid 4-pyrazol-1-yl-2-trifluoromethyl-benzylamide
4-[4-(2-Aminoethyl)anilino]-N-[4-(1H-pyrazol-1-yl)-2-(trifluoromethyl)benzyl]-1-piperidinecarboxamide formate (0.532 g, 1.0 mmol) was reacted with tert-butyl-(4-oxiranylmethoxy-phenoxy)-diphenyl-silane (0.404 g, 1.0 mmol) according to Procedure G (eluant: 20:1 chloroform-methanol) to give the title compound (0.18 g, 0.20 mmol)

reactant | 4-[4-(2-Aminoethyl)anilino]-N-[4-(1H-pyrazol-1-yl)-2-(trifluoromethyl)benzyl]-1-piperidinecarboxamide formate | 1.0 mmol, 0.532 g | C(=O)O.NCCC1=CC=C(NC2CCN(CC2)C(=O)NCC2=C(C=C(C=C2)N2N=CC=C2)C(F)(F)F)C=C1
reactant | tert-butyl-(4-oxiranylmethoxy-phenoxy)-diphenyl-silane | 1.0 mmol, 0.404 g | C(C)(C)(C)[Si](C1=CC=CC=C1)(C1=CC=CC=C1)OC1=CC=C(C=C1)OCC1OC1 | C25H28O3Si
solvent | chloroform methanol | C(Cl)(Cl)Cl.CO
product | 4-(4-{2-[(2S)-2-Hydroxy-3-(4-hydroxy-phenoxy)-propylamino]-ethyl}-phenylamino)-piperidine-1-carboxylic Acid 4-pyrazol-1-yl-2-trifluoromethyl-benzylamide | 0.20 mmol, 0.18 g | N1(N=CC=C1)C1=CC(=C(CNC(=O)N2CCC(CC2)NC2=CC=C(C=C2)CCNC[C@@H](COC2=CC=C(C=C2)O)O)C=C1)C(F)(F)F | C34H39F3N6O4
